US04025641
1-Ethyl-4-[6-(4-isopentyloxy-butyloxy)-hexyloxy]-benzene (process (b)
2.60 g (0.010 mol) of 6-(4-Isopentyloxybutyloxy)-hexanol are mixed with 1.22 g (0.010 mol) of 4-ethylphenol and 2.06 g (0.010 mol) of dicyclohexyl carbodiimide and the mixture is stirred at 100° C. over the course of 3 days. After cooling the residue is chromatographed with hexane/ethyl acetate (97:3) on silica gel, whereupon 1-ethyl-4-[6-(4-isopentyloxybutyloxy)-hexyloxy]-benzene is obtained, which according to thin layer chromatography and gas-chromatography is a pure oil.

reactant | 6-(4-Isopentyloxybutyloxy)-hexanol | 0.010 mol, 2.60 g | C(CC(C)C)OCCCCOCCCCCCO | C15H32O3
reactant | 4-ethylphenol | 0.010 mol, 1.22 g | C(C)C1=CC=C(C=C1)O | C8H10O
reactant | dicyclohexyl carbodiimide | 0.010 mol, 2.06 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 1-Ethyl-4-[6-(4-isopentyloxy-butyloxy)-hexyloxy]-benzene | C(C)C1=CC=C(C=C1)OCCCCCCOCCCCOCCC(C)C | C23H40O3
